US04271308
3-Mercapto-4-n-butyl-1,2,4-triazole (2.0 g. or 0.127 mole) and chloral (3.68 g. or 0.0254 mole) were heated in benzene (30 ml.) until a precipitate formed (10 minutes). The mixture was cooled, the precipitate was collected, dried, and recrystallized from ether-hexane to give 3-(1-hydroxy-2,2,2-trichloroethylmercapto)-4-n-butyl-1,2,4-triazole melting at 95°-97° C. The structure was confirmed by its nuclear magnetic resonance spectrum.

reactant | 3-Mercapto-4-n-butyl-1,2,4-triazole | 0.127 mole, 2.0 g | SC1=NN=CN1CCCC | C6H11N3S
reactant | chloral | 0.0254 mole, 3.68 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-(1-hydroxy-2,2,2-trichloroethylmercapto)-4-n-butyl-1,2,4-triazole | OC(C(Cl)(Cl)Cl)SC1=NN=CN1CCCC | C8H12Cl3N3OS
